US04826854
A solution of 10 g of the mixture of cyclododecanone and diethyl N-(1-cyclododecenyl)-aminomethylenemalonate in 25 ml Dowtherm® is added to 200 ml Dowtherm® at 250° under nitrogen, collecting distillate in a water separator. After heating for 0.5 hour the mixture is cooled to room temperature and the solvent distilled off under reduced pressure. The residual solid is triturated with ether and dried to give ethyl 5,6,7,8,9,10,11,12,13,14-decahydro-4hydroxycyclododeca[b]pyridine-3-carboxylate, m.p. 182°-90°.

reactant | cyclododecanone | C1(CCCCCCCCCCC1)=O | C12H22O
reactant | diethyl N-(1-cyclododecenyl)-aminomethylenemalonate | C1(=CCCCCCCCCCC1)NC=C(C(=O)OCC)C(=O)OCC | C20H33NO4
solvent | Dowtherm | 25 ml | C1=CC=C(C=C1)C2=CC=CC=C2.C1=CC=C(C=C1)OC2=CC=CC=C2
solvent | Dowtherm | 200 ml | C1=CC=C(C=C1)C2=CC=CC=C2.C1=CC=C(C=C1)OC2=CC=CC=C2
product | ethyl 5,6,7,8,9,10,11,12,13,14-decahydro-4hydroxycyclododeca[b]pyridine-3-carboxylate | OC1=C2C(=NC=C1C(=O)OCC)CCCCCCCCCC2 | C18H27NO3
